US07417047B2
Step 3: 4-(3-Bromo-4-fluoro-phenylethynyl)-1-ethyl-2-methanesulfonyl-1H-pyrrole
A solution of 1-ethyl-4-iodo-2-methanesulfonyl-1H-pyrrole (0.28 g, 0.94 mmol) in DMF was treated with dichlorobis(triphenylphosphine)-palladium(II) (0.033 g, 0.05 mmol), triphenylphosphine (0.0054 g, 0.028 mmol) and triethylamine (0.68 mL, 4.9 mmol), treated dropwise with a solution of 2-bromo-4-ethynyl-1-fluorobenzene (0.28 g, 1.4 mmol) in DMF, stirred at room temperature for 18 h, poured into EtOAc and washed sequentially with water and brine. The organic phase is separated, dried (Na2SO4) and concentrated in vacuo. Chromatography of the resultant residue (silica gel, 2%-20% EtOAC-hexanes as eluent) yielded an oil; 1H NMR (400 MHz, CDCl3) δ: 1.50 (t, 3H, J=7.3 Hz), 3.12 (s, 3H), 4.28 (q, 2H, J=7.3 Hz), 7.01 (d, 1H, J=1.8 Hz), 7.07 (t, 1H, J=8.5 Hz), 7.12 (d, 1H, J=1.8 Hz), 7.37 (m, 1H), 7.66 (dd, 1H, J=2.1, 6.6 Hz).

reactant | 1-ethyl-4-iodo-2-methanesulfonyl-1H-pyrrole | 0.94 mmol, 0.28 g | C(C)N1C(=CC(=C1)I)S(=O)(=O)C | C7H10INO2S
reactant | triphenylphosphine | 0.028 mmol, 0.0054 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 4.9 mmol, 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4-ethynyl-1-fluorobenzene | 1.4 mmol, 0.28 g | BrC1=C(C=CC(=C1)C#C)F | C8H4BrF
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.05 mmol, 0.033 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-Bromo-4-fluoro-phenylethynyl)-1-ethyl-2-methanesulfonyl-1H-pyrrole | 2%-20% | BrC=1C=C(C=CC1F)C#CC=1C=C(N(C1)CC)S(=O)(=O)C | C15H13BrFNO2S
